US08138173B2
Under a nitrogen atmosphere, a mixture of 2-phenyl-2,5-dihydro-4H-pyrazolo[3,4-c]quinoline-one (3.0 g, 11.5 mmol), N,N,N′-tetramethylethylenediamine (7.7 mL), and tetrahydrofuran (128 mL) was chilled to 0° C. A solution of n-butyllithium in hexanes (12.0 mL of 2.86 M) was added dropwise. After the addition was complete the reaction mixture was stirred for 5 minutes at 0° C. and then cooled to −78° C. To the cooled solution was added iodoethane (5.3 mL, 34 mmol). The reaction mixture was warmed to ambient temperature and stirred for 30 minutes before quenching with saturated aqueous ammonium chloride. The layers were separated and the organic layer was concentrated under reduced pressure to afford a yellow oil. The yellow oil was stirred in acetonitrile and filtered to provide material that was recrystallized from methanol to provide 100 mg of 1-ethyl-2-phenyl-2,5-dihydro-4H-pyrazolo[3,4-c]quinolin-4-one as colorless needles., mp 331-334° C. MS (APCI) m/z 290 (M+H)+; Anal. calcd for C18H15N3O: C, 74.72; H, 5.23; N, 14.52. Found: C, 74.51; H, 4.96; N, 14.62.

reactant | 2-phenyl-2,5-dihydro-4H-pyrazolo[3,4-c]quinoline-one | 11.5 mmol, 3.0 g | C1(=CC=CC=C1)N1NC=2CNC=3C=CC=CC3C2C1=O | C16H13N3O
reactant | tetrahydrofuran | 128 mL | O1CCCC1 | C4H8O
reactant | n-butyllithium | C(CCC)[Li]
reactant | iodoethane | 34 mmol, 5.3 mL | ICC | C2H5I
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-ethyl-2-phenyl-2,5-dihydro-4H-pyrazolo[3,4-c]quinolin-4-one | 100 mg | C(C)C=1N(N=C2C(NC=3C=CC=CC3C21)=O)C2=CC=CC=C2 | C18H15N3O
